US04659716
3-[2-(3,4-Dichlorophenyl)ethyl]-2-pyridinecarbonitrile
A solution of 3-[2-(3,4-dichlorophenyl)ethyl]-N-(1,1-dimethylethyl)-2-pyridine carboxamide (37.8 g, 0.107 mole) in 120 mL (197.4 g, 1.29 mole) of phosphorous oxychloride is heated at 110° C. for 4.5 hours. Completion of the reaction is determined by thin-layer chromotography. The reaction is quenched with ice and H2O and the pH of the solution is brought to 8 by the addition of a saturated solution of potassium carbonate. The product is extracted into ethylacetate. The solution is concentrated to a solid residue which upon recrystallization from diethyl ether/ethyl acetate provides the desired product, (27.1 g, 0.098 mole), in 91.6% yield.

reactant | 3-[2-(3,4-dichlorophenyl)ethyl]-N-(1,1-dimethylethyl)-2-pyridine carboxamide | 0.107 mole, 37.8 g | ClC=1C=C(C=CC1Cl)CCC=1C(=NC=CC1)C(=O)NC(C)(C)C | C18H20Cl2N2O
reactant | phosphorous oxychloride | 1.29 mole, 120 mL, 197.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-[2-(3,4-Dichlorophenyl)ethyl]-2-pyridinecarbonitrile | 0.098 mole, 27.1 g, 91.6% yield | ClC=1C=C(C=CC1Cl)CCC=1C(=NC=CC1)C#N | C14H10Cl2N2
